US07947686B2
Step 4. Preparation of methyl 3-[N-tert-butyloxycarbonyl-(2-cyano-ethyl)-amino]-2,2-dimethylpropanoate
A solution of (Boc)2O (1.15 eq., 0.95 g, 4.37 mmol) in dry THF (3 mL) was added to the solution of methyl 3-(2-cyano-ethylamino)-2,2-dimethylpropanoate (0.7 g, 3.80 mmol) in dry THF (30 mL) at room temperature. After about 24 and 48 hours, two additional portions of (Boc)2O (0.5 eq., 0.4 g, 1.9 mmol) were added and stirring was continued for 24 hours more. The solvent was evaporated and the crude material was purified by flash chromatography on silica gel, using cyclohexane-ethyl acetate 3:1 as eluant, to give the title compound as colourless oil (0.9 g, 80% yield).

reactant | (Boc)2O | 4.37 mmol, 0.95 g, 1.15 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 3-(2-cyano-ethylamino)-2,2-dimethylpropanoate | 3.80 mmol, 0.7 g | C(#N)CCNCC(C(=O)OC)(C)C | C9H16N2O2
reactant | (Boc)2O | 1.9 mmol, 0.4 g, 0.5 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 3-[N-tert-butyloxycarbonyl-(2-cyano-ethyl)-amino]-2,2-dimethylpropanoate | 0.9 g, 80% yield | C(C)(C)(C)OC(=O)N(CC(C(=O)OC)(C)C)CCC#N | C14H24N2O4
